US09351965B2
Preparation of (3R)-1-((1H-indazol-1-yl)methyl)-3-aminocyclohexanol
In a flask, hydrochloric acid in dioxane (4M, 2 mL) was added to tert-butyl-3-((1H-indazol-1-yl)methyl)-3-hydroxycyclohexylcarbamate (50 mg), and the reaction was stirred for 30 minutes. The resulting solution was concentrated in vacuo. The crude product was progressed to the next step without further purification.

reactant | hydrochloric acid | Cl | ClH
reactant | tert-butyl-3-((1H-indazol-1-yl)methyl)-3-hydroxycyclohexylcarbamate | 50 mg | C(C)(C)(C)OC(NC1CC(CCC1)(O)CN1N=CC2=CC=CC=C12)=O | C19H27N3O3
solvent | dioxane | 4M, 2 mL | O1CCOCC1 | C4H8O2
product | (3R)-1-((1H-indazol-1-yl)methyl)-3-aminocyclohexanol | N1(N=CC2=CC=CC=C12)CC1(C[C@@H](CCC1)N)O | C14H19N3O
